US06569993B1
A suspension of Fmoc-Lys(Alloc) (4.2 g, 9.3 mmol) and benzotriazolyloxy-tris[pyrrolidino]-phosphonium hexafluoroacetate (PyBOP, 4.8 g, 9.3 mmol) in 69 mL acetonitrile at 5° C. is treated with N-methylmorpholine (0.94 g, 9.3 mmol), resulting in formation of a solution which is stirred at 5° C. for 30 minutes. A suspension of Glu(OtBu)-Arg(Pmc)-Val-Asp(Allyl)-OBzl (9 g, 9.3 mmole) in 52 mL acetonitrile is added, causing the reaction mixture to become cloudy white. N-methylmorpholine is added until the reaction mixture is at pH 7, then the mixture is allowed to warm to ambient temperature and stir for 1.33 hours. The mixture is filtered and the solid residue is washed with acetonitrile (2×40 mL) and dried overnight under vacuum with a nitrogen bleed to give 12.8 g of an off-white crusty solid which is triturated with 200 mL methyl-t-butyl ether, collected by filtration and dried under vacuum to afford 9.7 g of Fmoc-Lys(Alloc)-Glu(OtBu)-Arg(Pmc)-Val-Asp(OAllyl)-OBzl. (SEQ ID NO: 39) (Mcalc 1404.7; M+1obsvd 1406).

reactant | Fmoc-Lys(Alloc) | 9.3 mmol, 4.2 g | N([C@@H](CCCCNC(=O)OCC=C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C25H28N2O6
reactant | PyBOP | 9.3 mmol, 4.8 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 9.3 mmol, 0.94 g | CN1CCOCC1 | C5H11NO
reactant | Glu(OtBu)-Arg(Pmc)-Val-Asp(Allyl)-OBzl | 9.3 mmole, 9 g | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=2CCC(C)(C)OC2C(C)=C1C)=N)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(OCC=C)=O)C(=O)OCC1=CC=CC=C1 | C48H71N7O12S
solvent | acetonitrile | 69 mL | C(C)#N | C2H3N
solvent | acetonitrile | 52 mL | C(C)#N | C2H3N
product | Fmoc-Lys(Alloc)-Glu(OtBu)-Arg(Pmc)-Val-Asp(OAllyl)-OBzl | 9.7 g | N([C@@H](CCCCNC(=O)OCC=C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=2CCC(C)(C)OC2C(C)=C1C)=N)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(OCC=C)=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C73H97N9O17S
